US09302989B2
N-(4-{[6-(benzoylamino)hexyl]carbamoyl}phenyl)-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 278, substituting benzoyl chloride for acetyl chloride and N-{4-[(6-aminohexyl)carbamoyl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.57 (s, 1H), 8.43 (t, J=5.6 Hz, 1H), 8.25 (t, J=5.6 Hz, 1H), 7.81-7.86 (m, 2H), 7.74-7.78 (m, 2H), 7.63-7.67 (m, 2H), 7.41-7.54 (m, 3H), 7.29-7.39 (m, 4H), 4.78-4.79 (bs, 4H), 3.15-3.27 (m, 4H), 1.44-1.64 (m, 4H), 1.19-1.39 (m, 4H); MS (ESI(+)) m/e 485 (M+H)+.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | N-{4-[(6-aminohexyl)carbamoyl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide | NCCCCCCNC(=O)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C22H28N4O2
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-(4-{[6-(benzoylamino)hexyl]carbamoyl}phenyl)-1,3-dihydro-2H-isoindole-2-carboxamide | C(C1=CC=CC=C1)(=O)NCCCCCCNC(=O)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C29H32N4O3
